US07202363B2
1-methyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1H-indole-2-carboxamide
A mixture of oxalyl chloride (0.35 mL) and dimethylformamide (1 drop) was added to a solution of 1-methyl-1H-2-indolecarboxylic acid (440 mg, 2.51 mmol) in dichloromethane (10 mL). After one hour the mixture was evaporated, dissolved in dichloromethane (10 mL), and added to a mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (500 mg, 2.28 mmol) and diisopropylethylamine (0.35 mL) in dichloromethane (10 mL). After 16 hours the mixture was washed with water (10 mL), dried (MgSO4), filtered, concentrated, and purified by flash column chromatography to provide the desired product (600 mg, 1.60 mmol) after lyophilization: MS m/e 377.4 (M+H)+.

reactant | oxalyl chloride | 0.35 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-methyl-1H-2-indolecarboxylic acid | 2.51 mmol, 440 mg | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 2.28 mmol, 500 mg | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | diisopropylethylamine | 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-methyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1H-indole-2-carboxamide | 1.60 mmol, 600 mg | CN1C(=CC2=CC=CC=C12)C(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H25BN2O3
